US04025630
5,5-Dimethyl-10-[4-(2-methylpiperidino)butyryloxy]-8-(4-fluorophenyl-1-methylbutyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d] pyridine hydrochloride
A mixture of equimolar quantities of 5,5-dimethyl-10-hydroxy-8-(4-fluorophenyl-1-methylbutyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine, γ-(2-methylpiperidino)butyric acid hydrochloride and dicyclohexylcarbodiimide in methylene chloride are stirred at room temperature for 16 hours. The reaction mixture is cooled and the solid removed by suction filtration. The methylene chloride is evaporated to give a residue which is dissolved in methylene chloride and diethyl ether. After removing the resulting crude product, the solvents are evaporated and the gummy resin is dried, triturated with diethyl ether, and dried to yield the desired product.

reactant | 5,5-dimethyl-10-hydroxy-8-(4-fluorophenyl-1-methylbutyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(CCC)(C)C2=CC=C(C=C2)F)O)C2=C1CCN(C2)CC#C)C | C28H32FNO2
reactant | γ-(2-methylpiperidino)butyric acid hydrochloride | Cl.CC1N(CCCC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5,5-Dimethyl-10-[4-(2-methylpiperidino)butyryloxy]-8-(4-fluorophenyl-1-methylbutyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d] pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(CCC)(C)C2=CC=C(C=C2)F)OC(CCCN2C(CCCC2)C)=O)C2=C1CCN(C2)CC#C)C | InChI=1S/C38H49FN2O3.ClH/c1-7-19-38(6,28-14-16-30(39)17-15-28)29-24-33(43-35(42)13-11-22-41-21-10-9-12-27(41)3)36-31-26-40(20-8-2)23-18-32(31)37(4,5)44-34(36)25-29;/h2,14-17,24-25,27H,7,9-13,18-23,26H2,1,3-6H3;1H
